US07638514B2
2.0 g of 2-(3-chloro-propyl)-2-(4-fluoro-phenyl)-[1,3]dioxolane are added to a suspension of 2.36 g of 2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenol, 1.7 g of potassium carbonate and 120 mg of potassium iodide in 50 ml of acetone. The mixture is then stirred for 48 hours at 60° C. The reaction mixture is concentrated and the residue is taken up in water and extracted with ethyl acetate. After concentration of the organic phase and purification over silica gel, 2-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propyl}-2-(4-fluoro-phenyl)-[1,3]dioxolane is obtained.

reactant | 2-(3-chloro-propyl)-2-(4-fluoro-phenyl)-[1,3]dioxolane | 2.0 g | ClCCCC1(OCCO1)C1=CC=C(C=C1)F | C12H14ClFO2
reactant | 2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenol | 2.36 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)O | C9H6Cl4O2
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 120 mg | [I-].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propyl}-2-(4-fluoro-phenyl)-[1,3]dioxolane | ClC1=C(OCCCC2(OCCO2)C2=CC=C(C=C2)F)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C21H19Cl4FO4
